US05012002
In 250 ml of dehydrated diethyl ether, 102.6 g (0.6 mole) of m-bromotoluene was reacted with 15.3 g (0.64 mole) of metallic magnesium to prepare a Grignard reagent. To the resulting Grignard reagent was added dropwise 57 g (0.3 mole) of N,N-diethylamidochlorophosphate at 37° to 38° C. over a period of 2 hours. After the reaction mixture was heated at reflux for 4.5. hours, 400 ml of ice-water and 150 ml of saturated aqueous ammonium chloride were added thereto to decompose the salt. After liquid separation, 400 ml of concentrated hydrochloric acid was added to the ether layer under ice-cooling, followed by heating to remove the ether by distillation. To the residue was further added 100 ml of concentrated hydrochloric acid, and a reaction was conducted at 100° to 110° C. for 5 hours. The formed oily substance was separated from the aqueous layer, and 50 ml of a 20% aqueous solution of sodium hydroxide was added thereto to form a uniform solution. The insoluble matter was removed by extraction with toluene, and 20% sulfuric acid was added to the solution to neutralize and further to make it acidic. The precipitate thus formed was collected by filtration, washed with water, and dried to obtain 27 g of a crude product. Recrystallization from methanol yielded 25.4 g (percent yield: 34%) of di-(m-tolyl)phosphinic acid as a colorless solid having a melting point of 171.5° C.

reactant | m-bromotoluene | 0.6 mole, 102.6 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | magnesium | 0.64 mole, 15.3 g | [Mg] | Mg
reactant | N,N-diethylamidochlorophosphate | 0.3 mole, 57 g | C(C)N(P(=O)([O-])Cl)CC
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | di-(m-tolyl)phosphinic acid | 25.4 g, yield: 34% | C1(=CC(=CC=C1)P(O)(=O)C=1C=C(C=CC1)C)C | C14H15O2P
